US04233307
A mixture of 3.0 g of 4-chloro-1-(4-fluorophenyl)-1,1-ethylenedioxybutane, 2.0 g of 1-methyl-2-oxo-indoline-3-spiro-4'-piperidine, 2.8 g of anhydrous potassium carbonate, 0.1 g of potassium iodide and 30 ml of dimethylformamide was refluxed for 2 hours. The resulting mixture was poured into water and was extracted with ethyl acetate. The extract was washed with water, dried over anhydrous sodium sulfate and concentrated in vacuo. To the residual oil were added 60 ml of methanol, 20 ml of water and 10 ml of concentrated hydrochloric acid. The mixture was refluxed for 25 minutes and concentrated in vacuo. The residual oil was made alkaline with 28% aqueous ammonia and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous sodium sulfate and concentrated. The residual oil was chromatographed over silica gel with ethyl acetate as an elueting agent to give 1'-[3-(4-fluorobenzoyl)propyl]-1-methyl-2-oxo-indoline-3-spiro-4'-piperidine, M.P. 95°-96.5° C.

reactant | 4-chloro-1-(4-fluorophenyl)-1,1-ethylenedioxybutane | 3.0 g | ClCCCC1(OCCO1)C1=CC=C(C=C1)F | C12H14ClFO2
reactant | 1-methyl-2-oxo-indoline-3-spiro-4'-piperidine | 2.0 g | CN1C(C2(CCNCC2)C2=CC=CC=C12)=O | C13H16N2O
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.1 g | [I-].[K+]
solvent | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1'-[3-(4-fluorobenzoyl)propyl]-1-methyl-2-oxo-indoline-3-spiro-4'-piperidine | FC1=CC=C(C(=O)CCCN2CCC3(CC2)C(N(C2=CC=CC=C23)C)=O)C=C1 | C23H25FN2O2
